US07342039B2
To a solution of 4-(3-aminooxy-propoxy)-2-hydroxy-benzoic acid methyl ester (0.17 g, 0.69 mmol) and 1-benzyl-1H-indole-2-carbaldehyde (0.16 g, 0.69 mmol) in methylene chloride (10 mL) was added anhydrous magnesium sulfate (0.04 g). The mixture was allowed to stir at ambient temperature overnight, then heated to reflux for 1 hour and allowed to cool back to ambient temperature. The mixture was filtered and the filtrate was concentrated under reduced pressure. The crude material was purified by flash chromatography through silica gel using ethyl acetate/hexanes (0/100 gradient to 20/80) to give 4-[3-({[(1E)-(1-benzyl-1H-indol-2-yl)methylidene]amino}oxy)propoxy]-2-hydroxybenzoic acid methyl ester (0.11 g, 36%) as a white solid. 1H NMR (400 MHz, CDCl3); δ 10.94 (s, 1H), 8.16 (s, 1H), 7.70 (d, 1H), 7.63 (d, 1H), 7.28-7.17 (m, 5H), 7.11 (t, 1H), 7.00 (d, 2H), 6.78 (s, 1H), 6.41 (s, 1H), 6.39 (d, 1H), 5.72 (s, 2H), 4.21 (t, 2H), 3.98 (t, 2H), 3.89 (s, 3H), 2.03 (m, 2H).

reactant | 4-(3-aminooxy-propoxy)-2-hydroxy-benzoic acid methyl ester | 0.69 mmol, 0.17 g | COC(C1=C(C=C(C=C1)OCCCON)O)=O | C11H15NO5
reactant | 1-benzyl-1H-indole-2-carbaldehyde | 0.69 mmol, 0.16 g | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C=O | C16H13NO
reactant | magnesium sulfate | 0.04 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-({[(1E)-(1-benzyl-1H-indol-2-yl)methylidene]amino}oxy)propoxy]-2-hydroxybenzoic acid methyl ester | 0.11 g, 36% | COC(C1=C(C=C(C=C1)OCCCO/N=C/C=1N(C2=CC=CC=C2C1)CC1=CC=CC=C1)O)=O | C27H26N2O5
